US07488832B2
To 2.5 mL of anhydrous EtOH and 0.25 mL carbon tetrachloride was added 1.2 g (50 mmol) magnesium turnings. 8.0 g (50 mmol) diethyl malonate was dissolved in a mixture of 5 mL anhydrous EtOH and 20 mL anhydrous toluene and added in small portions to the magnesium turnings over the course of 1.5 hr so as to maintain a gentle reflux. The reaction was stirred at room temperature for 1 hr, and then cooled to 0° C. in ice. 4-Propyl-cyclohexanecarbonyl chloride (50 mmol) was added dropwise and the reaction was allowed to warm to room temperature over night. The reaction was then heated to 55° C. for 4 hr with stirring, allowed to cool to ambient temperature, and was poured into a slurry of crushed ice and 10% H2SO4. The solution was diluted with brine and extracted with ethyl acetate. The organic layer was separated, dried over MgSO4, and concentrated to afford 10.71 g (34.28 mmol) 2-(4-propyl-cyclohexanecarbonyl)-malonic acid diethyl ester as a clear, near colorless oil.

reactant | magnesium | 50 mmol, 1.2 g | [Mg] | Mg
reactant | diethyl malonate | 50 mmol, 8.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-Propyl-cyclohexanecarbonyl chloride | 50 mmol | C(CC)C1CCC(CC1)C(=O)Cl | C10H17ClO
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
solvent | EtOH | 2.5 mL | CCO | C2H6O
solvent | carbon tetrachloride | 0.25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-propyl-cyclohexanecarbonyl)-malonic acid diethyl ester | 34.28 mmol, 10.71 g | C(C)OC(C(C(=O)OCC)C(=O)C1CCC(CC1)CCC)=O | C17H28O5
